data/mechanisms/records/IMS8-EQ8.35.json
{"mechanism_id": "IMS8-EQ8.35", "species": [{"species_id": "enol_dihydroxycarbenium_precursor", "mapped_smiles": "[C+:1]([OH:9])([OH:10])[C:2](=[CH2:3])[CH2:4][CH2:5][C:6]([2H:15])([2H:16])[CH2:7][CH2:8][CH3:11]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "remote_carbocation_intermediate", "mapped_smiles": "[C:1]([OH:9])([OH:10])=[C:2]([CH2:3][2H:15])[CH2:4][CH2:5][C+:6]([2H:16])[CH2:7][CH2:8][CH3:11]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "allyl_oxocarbenium_product", "mapped_smiles": "[CH2+:4][C:2]([CH2:3][2H:15])=[C:1]([OH:9])[OH:10]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "deuterio_pentene_neutral", "mapped_smiles": "[CH2:5]=[C:6]([2H:16])[CH2:7][CH2:8][CH3:11]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["enol_dihydroxycarbenium_precursor"]}, {"state_id": "state_intermediate", "species_ids": ["remote_carbocation_intermediate"]}, {"state_id": "state_products", "species_ids": ["allyl_oxocarbenium_product", "deuterio_pentene_neutral"]}], "steps": [{"step_id": "step_gamma_d_rearrangement", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [6, 15]}, "target": {"type": "bond", "atom_maps": [3, 15]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_beta_cleavage", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "beta_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH_8_35", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_d_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 163, "equation": "8.35", "figure": null, "panel": null, "section": "8.4 Reaction initiation at radical or charge sites (gamma-H rearrangement of EE+ ions, Kraft and Spiteller 1967, arrow labelled 'rH')"}, "confidence": 0.8, "curator_note": "gamma-D rearrangement (arrow 'rH') of an even-electron (EE+) ion, a deuterium-labelling scheme (Kraft and Spiteller 1967) that the text calls a 'gamma-H rearrangement to an unsaturated group with beta-cleavage' closely similar to the OE+. Equations 4.33/4.35/4.36. Because the ion is CLOSED-SHELL, all arrows are double-barbed (2-electron), NOT the three-fishhook radical push of the OE+. analogues. The migrating atom is a DEUTERIUM (real experimental label), written [2H] and atom-mapped (map 15) so its C-D bond can be referenced; a second, spectator D (map 16) sits on the same gamma-carbon (the book draws the gamma-carbon as a -CD2- with one D up-right, one D down-left). The unsaturated group receiving the D is the exocyclic methylene C(=CH2) (map 2 = map 3). Through the drawn six-membered ring the gamma-D (map 15) transfers to the methylene carbon (map 3, becoming the -CH2D / 'DCH2' of the product), the C2=C3 methylene pi bond shifts to the C1-C2 bond (forming the (HO)2C=C enol double bond), and the charge relays from the dihydroxycarbenium carbon (map 1) to the gamma-carbon (map 6, now a +). ARC COUNT: Book draws 2 arc(s) on the precursor - the large sweeping arc from the gamma-D to the CH2 methylene (move <1>, the C-D bonding pair migrating as a hydride, bond 6-15 -> bond 3-15) and the small arc at the methylene/'+' carbon (move <2>, the C2=C3 pi pair -> the C1-C2 bond). Both drawn arcs are encoded; no implicit hook is needed (closed-shell 2-electron process). LOCALIZATION (convention C): the cation is a delocalized allyl/oxocarbenium; the precursor is written in the single localized form with the '+' on the dihydroxycarbenium carbon (map 1, protonated-carboxyl / carboxylic-acid-enol cation) and a genuine C(=CH2) methylene at map 2 - the form these arrows consume. The book draws the resonance partner (formal '+' on the central carbon, C=C to the C(OH)2). INSTANTIATION: the chain length (n-propyl terminus, two CH2 between the gamma-CD2 and the methylene) is transcribed as drawn; the parent is a 2-substituted acrylic-acid EE+ fragment, C9H15D2O2+, m/z 159.135 (curator-computed, no m/z printed on the page)."}, {"evidence_id": "evidence_step_beta_8_35", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_beta_cleavage", "support_type": "textbook_proposed", "locator": {"page": 163, "equation": "8.35", "figure": null, "panel": null, "section": "8.4 Reaction initiation at radical or charge sites (beta-cleavage of the rearranged EE+ ion, arrow labelled 'i')"}, "confidence": 0.8, "curator_note": "beta-cleavage (arrow 'i') of the rearranged carbocation. The '+' now sits on the former gamma-carbon (map 6); beta-scission cleaves the Calpha-Cbeta bond (map4-map5) and forms the Cbeta=Cgamma double bond (map5-map6), expelling the neutral alkene CH2=C(D)-CH2CH2CH3 (2-deuterio-1-pentene, C5H9D, keeping the spectator D map 16) and leaving the charge on the allyl/oxocarbenium fragment (map 4 now a primary cation). ARC COUNT: Book draws 1 arc(s) - the single curved arrow on the intermediate running from the Calpha-Cbeta bond up to the '+' on the gamma-carbon; it is the one double-barbed (2-electron) move encoded here. The cleaved Calpha-Cbeta bond IS incident to Cbeta, one of the two atoms of the new Cbeta=Cgamma pi bond - correct beta-scission geometry. DELOCALIZATION (convention C): the product cation is the delocalized allyl/oxocarbenium [CH2-C(CH2D)-C(OH)2]+; it is written in the single localized form these arrows produce, with the '+' on the terminal CH2 (map 4) and the C(OH)2=C enol double bond (map1=map2) retained. The book draws the resonance partner (CH2=C, '+' delocalized onto the C(OH)2). The product m/z 88.050 (C4H6DO2+) is curator-computed (no m/z printed on the page)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "metastable-ion (MI) decomposition", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 159.1349, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_88", "species_id": "allyl_oxocarbenium_product", "step_id": "step_beta_cleavage", "observed_mz": 88.0503, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
